US04446151
A mixture of 1,1-difluoro-2-phthalimido-4-methylene-5-bromo-pentane (impure, evaluated 67 mmoles) prepared as in Step C above, and potassium phthalimide (13.9 g, 75 mmoles) is heated at 75° C. in dry N,N-dimethylformamide (DMF) (100 mL) for 3 hours. After removal of the DMF under vacuum, the residue is dissolved in chloroform and extracted with 1 N potassium hydroxide and three times with water. Work-up as described in Example 1(D) affords a colored oil (30 g, containing solvents) which is chromatographed on silica gel (petroleum ether/ether acetate: 70/30). The oil obtained (11.3 g) is crystallized from chloroform/ether/petroleum ether to give 1,1-difluoro-2,5-diphthalimido-4-methylene-pentane slightly contaminated (about 15%) by 1,1-difluoro-2,5-diphthalimido-4-methyl-3-pentene (7.9 g of mixture, yield based on 1,1-difluoro-2-phthalimido-4-methyl-4-pentene: 29%).

reactant | 1,1-difluoro-2-phthalimido-4-methylene-5-bromo-pentane | 67 mmoles | FC(C(CC(CBr)=C)N1C(C=2C(C1=O)=CC=CC2)=O)F | C14H12BrF2NO2
reactant | potassium phthalimide | 75 mmoles, 13.9 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 1,1-difluoro-2,5-diphthalimido-4-methylene-pentane | FC(C(CC(CN1C(C=2C(C1=O)=CC=CC2)=O)=C)N2C(C=1C(C2=O)=CC=CC1)=O)F | C22H16F2N2O4
